US04963552
1,2-Dihydro-1-[[4-[(3-methoxyphenyl)methyl]-1-piperazinyl]acetyl]-4-[3-(trifluoromethyl)phenyl]imidazo[1,5-a]pyrimidine-8-carbonitrile
A mixture of 800 mg of 1-[3-methoxyphenyl)methyl]piperazine, 1.2 g of 1-(chloroacetyl)-1,2-dihydro-4-[3-(trifluoromethyl)phenyl]imidazo[1,5-a]pyrimidine-8-carbonitrile and 450 mg of sodium carbonate in 50 ml of toluene was heated at reflux for 18 hours, then allowed to stand at room temperature. The mixture was treated with 10 ml of 1N sodium hydroxide and the phases were separated. The aqueous phase was extracted twice with chloroform. The organic phases were combined, washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated to obtain a viscous oil. The oil was treated with 15 ml of ether and scratching to separate tan crystals. The crystals were collected, washed with ether and dried. The dried material was dissolved in 15 ml of ethyl acetate with heating, then the solution was filtered. The filtrate was mixed with 30 ml of n-hexane and stored in a refrigerator until crystals formed. The product was collected by filtration, pressed to remove solvent then washed with hexane and dried in vacuo to give 1.25 g of the desired product, mp 131°-133° C.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 1-(chloroacetyl)-1,2-dihydro-4-[3-(trifluoromethyl)phenyl]imidazo[1,5-a]pyrimidine-8-carbonitrile | 1.2 g | ClCC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)C=NC2C#N | C16H10ClF3N4O
reactant | sodium carbonate | 450 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 15 ml | CCOCC | C4H10O
product | 1,2-Dihydro-1-[[4-[(3-methoxyphenyl)methyl]-1-piperazinyl]acetyl]-4-[3-(trifluoromethyl)phenyl]imidazo[1,5-a]pyrimidine-8-carbonitrile | 1.25 g | COC=1C=C(C=CC1)CN1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)C=NC2C#N | C28H27F3N6O2
